US06894042B2
A dried flask under nitrogen is charged with methyl 3-hydroxy-4-iodobenzoate (10.0 g, 35.9 mmol), propioaldehyde diethyl acetal (5.72 ml, 40.0 mmol), bistriphenylphosphine palladium diacetate (538 mg, 0.72 mmol), copper iodide (273 mg, 1.4 mmol) and piperidine (3.94 ml, 40.0 mmol) in DMF (50 ml). The mixture is stirred at 45° C. for 6 h, then at RT overnight. The reaction is diluted with EtOAc (250 ml) and washed with 50% saturated 1:1 NaCl/NaHCO3 solution (4×100 ml). The organic layer is dried (Na2SO4), filtered and concentrated to a brown oil. The crude material is chromatographed over 500 g slurry-packed silica, eluting with 15% EtOAc/hexane. The appropriate fractions are collected and concentrated, affording 3.22 g (32%) of methyl 2-(diethoxymethyl)-1-benzofuran-6-carboxylate as an orange oil. 1H NMR (400 MHz, CDCl3): δ 1.29, 3.72, 3.96, 5.70, 6.88, 7.61, 7.95, 8.20 ppm.

reactant | methyl 3-hydroxy-4-iodobenzoate | 35.9 mmol, 10.0 g | OC=1C=C(C(=O)OC)C=CC1I | C8H7IO3
reactant | propioaldehyde diethyl acetal | 40.0 mmol, 5.72 ml | C(C)OC(CC)OCC | C7H16O2
reactant | piperidine | 40.0 mmol, 3.94 ml | N1CCCCC1 | C5H11N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
catalyst | copper iodide | 1.4 mmol, 273 mg | [Cu](I)I
product | methyl 2-(diethoxymethyl)-1-benzofuran-6-carboxylate | 3.22 g, 32% | C(C)OC(C=1OC2=C(C1)C=CC(=C2)C(=O)OC)OCC | C15H18O5
